US07456211B2
To a solution of (R)-4-butylpyrrolidin-2-one (0.42 g, 2.9 mmol) in dry dimethylformamide (10 mL) under argon was slowly added sodium hydride (60% in mineral oil, 0.14 g, 3.5 mmol) at 0° C. After stirring at 0° C. for 30 minutes, 5-benzyloxypentyl bromide (0.9 g, 3.5 mmol) was added dropwise. The resulting mixture was stirred at room temperature overnight and then diluted with ethyl acetate (50 mL). The organic solution was washed with water (4×30 mL) and brine (30 mL), dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (silica gel, 1:1 EtOAc/hexanes) to afford 0.73 g (95%) of (R)-1-(5-benzyloxypentyl)-4-butylpyrrolidin-2-one as a colorless oil: 1H NMR (CDCl3) δ 7.33 (m, 5 H), 4.51 (s, 2 H), 3.45 (m, 3 H), 3.27 (t, 2 H), 2.99 (dd, 1 H), 2.52 (dd, 1 H), 2.32 (m, 1 H), 2.06 (m, 1 H), 1.24-1.71 (m, 12 H), 0.93 (t, 3 H). MS(ES) m/e 318 [M+H]+.

reactant | (R)-4-butylpyrrolidin-2-one | 2.9 mmol, 0.42 g | C(CCC)[C@@H]1CC(NC1)=O | C8H15NO
reactant | sodium hydride | 3.5 mmol, 0.14 g | [H-].[Na+]
reactant | 5-benzyloxypentyl bromide | 3.5 mmol, 0.9 g | C(C1=CC=CC=C1)OCCCCCBr | C12H17BrO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (R)-1-(5-benzyloxypentyl)-4-butylpyrrolidin-2-one | 0.73 g, 95% | C(C1=CC=CC=C1)OCCCCCN1C(C[C@H](C1)CCCC)=O | C20H31NO2
